US03966736
In the manner given in Example 25, to 6,7-dimethyl-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a]-[1,5]benzodiazepin-3-one in dimethylformamide is added a solution of sodium hydride in mineral oil. The mixture is allowed to react at about 95° C. for 40 minutes and after cooling 3-(dimethylamino)propylchloride in xylene is added. The mixture is kept at 95°-100° C. for a period of 22 hours, evaporated and worked up as in example 21 to give 6,7-dimethyl-2,9-dihydro-2-[3-(dimethylamino)-propyl]-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]benzodiazepine-3-one.

reactant | 6,7-dimethyl-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a]-[1,5]benzodiazepin-3-one | CC1=CC2=C(N(C3=C(C=4N2C(NN4)=O)C=CC=N3)C(CN(CCC)CCC)=O)C=C1C | C23H28N6O2
reactant | sodium hydride | [H-].[Na+]
reactant | 3-(dimethylamino)propylchloride | CN(CCCCl)C | C5H12ClN
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 6,7-dimethyl-2,9-dihydro-2-[3-(dimethylamino)-propyl]-9-[(dipropylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]benzodiazepine-3-one | CC1=CC2=C(N(C3=C(C=4N2C(N(N4)CCCN(C)C)=O)C=CC=N3)C(CN(CCC)CCC)=O)C=C1C | C28H39N7O2
